US07335658B2
6-[4-(4,4,4-TRIFLUORO-3-METHYLBUT-2-ENOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
Following the procedure of Example 9, making variations only as required to use to use 4,4,4-trifluoro-3-methylbut-2-enoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide, the title compound was obtained as a white powder (62% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 7.83, 7.00, 6.55, 3.86-3.83, 3.80-3.73, 3.62-3.60, 3.48, 2.01, 1.75-1.62, 1.49, 0.92. MS (ES+) m/z 414.4 (M+1).

reactant | 4,4,4-trifluoro-3-methylbut-2-enoic acid | FC(C(=CC(=O)O)C)(F)F | C5H5F3O2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-methylbutyl)amide | CC(CCNC(=O)C=1N=NC(=CC1)N1CCNCC1)C | C14H23N5O
product | 6-[4-(4,4,4-TRIFLUORO-3-METHYLBUT-2-ENOYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | CC(CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C=C(C(F)(F)F)C)=O)C | C19H26F3N5O2
